US06331538B1
1-(3-Methoxyphenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione
Using the General Method 6A, the reaction of 10% Pd/C (0.04 g) with 1-(3-methoxyphenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione (Example U-1, 0.12 g, 0.24 mmol) afforded 0.08 g of the title compound as a solid, mp 158-160° C.

reactant | 1-(3-methoxyphenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | 0.24 mmol, 0.12 g | COC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)OCC1=CC=CC=C1)=O | C27H27FN4O4
catalyst | Pd/C | 0.04 g | [Pd] | Pd
product | 1-(3-Methoxyphenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | 0.08 g | COC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)O)=O | C20H21FN4O4
